US06949571B2
3-(2-Cyanophenyl)-1-(2-pyridyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one
A mixture of 0.05 g of 1-(2-pyridyl)-5-(2-pyridyl)-3-bromo-1,2-dihydropyridin-2-one, 0.04 g of 2-(2-cyanophenyl)-1,3,2-dioxaborinate, 0.02 g of tetrakistriphenylphosphine palladium and 0.1 g of cesium carbonate was stirred at 120° C. in a nitrogen atmosphere for 2 hours in dimethylformamide. The mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and then saturated saline water, and dried by magnesium sulfate anhydride. The solvent was concentrated under a vacuum, and the residue was refined by silica gel chromatography (ethyl acetate/hexane=3:1), to obtain 0.04 g of the white, powdery subject compound.

reactant | 1-(2-pyridyl)-5-(2-pyridyl)-3-bromo-1,2-dihydropyridin-2-one | 0.05 g | N1=C(C=CC=C1)N1C(C(=CC(=C1)C1=NC=CC=C1)Br)=O | C15H10BrN3O
reactant | 2-(2-cyanophenyl)-1,3,2-dioxaborinate | 0.04 g | C(#N)C1=C(C=CC=C1)B1OC=CC(O1)C(=O)[O-]
reactant | cesium carbonate | 0.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(2-Cyanophenyl)-1-(2-pyridyl)-5-(2-pyridyl)-1,2-dihydropyridin-2-one | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=NC=CC=C1)=O | C22H14N4O
